US08735598B2
L-Tartaric acid diethyl ester (10.0 g), acetic acid (100 ml), N-bromosuccinimide (34.5 g) and 2,2′-azobis(4-methoxy-2,4-dimethylvaleronitrile) (0.15 g) were mixed, and the reaction solution was stirred at 55° C. for 3 hours. The reaction solution was concentrated under reduced pressure until its volume became 50 ml to afford a solution of diethyl dioxobutanedioate in acetic acid as a yellow liquid.

reactant | L-Tartaric acid diethyl ester | 10.0 g | C(C)OC([C@H](O)[C@@H](O)C(=O)OCC)=O | C8H14O6
reactant | N-bromosuccinimide | 34.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(4-methoxy-2,4-dimethylvaleronitrile) | 0.15 g | N(=NC(C#N)(CC(C)(OC)C)C)C(C#N)(CC(C)(C)OC)C | C16H28N4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | diethyl dioxobutanedioate | O=C(C(C(=O)OCC)=O)C(=O)OCC | C8H10O6
